US05171731
To 2.57 g of 5,6-dichloro-1-isopropyl-2-methylbenzimidazole were added 1.52 ml of α-bromopropiophenone and 1 ml of anisole, and the mixture was heated for 2 hours on a steam bath. Then, to the mixture was added 50 ml of acetone. A produced crystals were separated from the mixture through filtration, then to the crystals were added 40 ml of 2% aqueous solution of sodium carbonate, and the resulting mixture was heated for 80 minutes on a steam bath. After the mixture was allowed to stand for cooling, produced crystals were separated from through filtration. The crystals were then washed with water to obtain 6,7-dichloro-4-isopropyl-1-methyl-2-phenylpyrrolo[1,2-a]benzimidazole.

reactant | 5,6-dichloro-1-isopropyl-2-methylbenzimidazole | 2.57 g | ClC1=CC2=C(N(C(=N2)C)C(C)C)C=C1Cl | C11H12Cl2N2
reactant | α-bromopropiophenone | 1.52 ml | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
reactant | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 6,7-dichloro-4-isopropyl-1-methyl-2-phenylpyrrolo[1,2-a]benzimidazole | ClC1=CC2=C(N3C(N2C(C)C)=CC(=C3C)C3=CC=CC=C3)C=C1Cl | C20H18Cl2N2
